US07683079B2
Step B]: rac-4-Amino-1-(3,4-dimethoxy-phenyl)-piperidine-3-carboxylic acid ethyl ester
A suspension of rac-1-(3,4-dimethoxy-phenyl)-4-oxo-piperidine-3-carboxylic acid ethyl ester (640 mg) and ammonium acetate (3 g) in 10 ml methanol was stirred 18 h at RT., then sodium cyanoborohydride (2 g) was added. After 18 h at RT, the mixture was diluted with AcOEt, washed twice with water and brine. The organic layers were dried over MgSO4, filtered, evaporated and chromatographied (silica gel, AcOEt/heptane, 1/1) to give the title compound (450 mg, 70%).

reactant | rac-1-(3,4-dimethoxy-phenyl)-4-oxo-piperidine-3-carboxylic acid ethyl ester | 640 mg | C(C)OC(=O)C1CN(CCC1=O)C1=CC(=C(C=C1)OC)OC | C16H21NO5
reactant | ammonium acetate | 3 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 2 g | C(#N)[BH3-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | rac-4-Amino-1-(3,4-dimethoxy-phenyl)-piperidine-3-carboxylic acid ethyl ester | 450 mg, 70% | C(C)OC(=O)C1CN(CCC1N)C1=CC(=C(C=C1)OC)OC | C16H24N2O4
